US07304062B2
(3,4-dimethylphenyl)methylenehydrazinecarboxylic acid, 1,1-dimethylethyl ester
To a solution of t-butyl carbazate (5.06 g, 38.3 mmol) in ethyl acetate (15 mL) was added with stirring 3,4-dimethylbenzaldehyde (5.20 mL, 5.26 g, 39.2 mmol). Crystallization occurred and the resulting slurry was stirred at rt for 45 min. Hexanes (70 mL) was added and the slurry was cooled to 0° C. The slurry was stirred at 0° C. for 60 min, then filtered and rinsed with cold hexanes (20 mL), and dried in vacuo at 40° C. to afford the title compound as a solid (8.76 g, 92.1%): mp 167.7-168.6° C. 1H NMR (DMSO-d6) δ 10.82 (s, 1H), 7.92 (s, 1H), 7.36 (s, 1H), 7.28 (d, 2H, J=3 Hz), 7.14 (d, 2H, J=3 Hz), 2.206 (s, 3H), 2.20 (s, 3H) 1.44 (s, 9H); 13C NMR (DMSO-d6) δ 153.0, 144.1, 138.5, 137.3, 132.9, 130.5, 128.1, 124.8, 79.9, 28.8, 19.99, 19.97; IR (KBr mull) 3361, 3009, 2981, 2981, 1513, 1495 cm−1. A portion was further purified by recrystallization from ethyl acetate for analysis. Anal. Calcd. for C14H20N2O2: C, 67.71; H, 8.12; N, 11.28. Found: C, 67.51; H, 8.07; N, 11.22.

reactant | t-butyl carbazate | 38.3 mmol, 5.06 g | C(NN)(=O)OC(C)(C)C | C5H12N2O2
reactant | 3,4-dimethylbenzaldehyde | 39.2 mmol, 5.20 mL, 5.26 g | CC=1C=C(C=O)C=CC1C | C9H10O
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | (3,4-dimethylphenyl)methylenehydrazinecarboxylic acid, 1,1-dimethylethyl ester | 8.76 g, 92.1% | CC=1C=C(C=CC1C)C=NNC(=O)OC(C)(C)C | C14H20N2O2
